US09108939B2
D: tert-Butyl 4-(2-chloro-5-fluoro-4-nitrobenzylidene)piperidine-1-carboxylate
Diethyl 2-chloro-5-fluoro-4-nitrobenzylphosphonate (4.06 g, 12.47 mmol) and tert-butyl 4-oxopiperidine-1-carboxylate (2.48 g, 12.47 mmol) were stirred in tetrahydrofuran (47.9 ml) and cooled in an ice bath. Sodium hydride (0.65 g, 16.21 mmol) was added and the reaction taken off the ice bath and stirred for 3.5 hours at room temperature. The reaction was quenched with water and extracted with dichloromethane, dried (magnesium sulphate), filtered and evaporated under reduced pressure. The crude material was purified by silica chromatography using a dichloromethane solvent system. The oil obtained was triturated with heptane and filtered to give the title compound as a yellow solid (1.32 g). 1H NMR (CDCl3, 400 MHz): δ 8.12 (d, 1H), 7.13 (d, 1H), 6.33 (s, 1H), 3.55 (t, 2H), 3.44 (t, 2H), 2.41 (t, 2H), 2.34 (t, 2H), 1.48 (s, 9H)

reactant | Diethyl 2-chloro-5-fluoro-4-nitrobenzylphosphonate | 12.47 mmol, 4.06 g | ClC1=C(CP(OCC)(OCC)=O)C=C(C(=C1)[N+](=O)[O-])F | C11H14ClFNO5P
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 12.47 mmol, 2.48 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | Sodium hydride | 16.21 mmol, 0.65 g | [H-].[Na+]
solvent | tetrahydrofuran | 47.9 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-(2-chloro-5-fluoro-4-nitrobenzylidene)piperidine-1-carboxylate | 1.32 g | ClC1=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C(C(=C1)[N+](=O)[O-])F | C17H20ClFN2O4
